2184-07-15 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2184-7-14**] 12:55 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2184-7-14**] 02:03 PM
   Pilot balloon broken during repositioning ETT. Required re-intubation.
 PICC LINE - START [**2184-7-14**] 02:26 PM
 PHERESIS CATHETER - START [**2184-7-14**] 03:27 PM
 EKG - At [**2184-7-14**] 08:00 PM
 LUMBAR PUNCTURE - At [**2184-7-15**] 12:00 AM
 FEVER - 101.9
F - [**2184-7-14**] 06:00 PM
   .
   [**7-14**]
   -ID: see OMR note; recs followed
   -Neuro: recs followed; added RPR, started thiamine (thiamine deficiency
   can contribute to neurological sequellae of cerebral malaria), EEG
   tomorrow, q1H neuro checks, continue propofol which is somewhat
   protective for seizures, repeat LP with opening pressure, MRI head w/
   and w/o contrast (ordered).
   .
   -Had increased pupil size 3h after 1st CT head. CT head repeated at
   1400. No change from prior. Per Radiology and ID - recommend MRI head.
   .
   -Pt was HIV negative as of 2 years ago - required to get green card
   from Kenyan embassy. Her 17mo baby is HIV negative (unsure if she was
   tested at pregnancy).
   .
   -Updated contact info: [**Name (NI) 8501**] [**Name (NI) 8522**] (cousin/brother, [**Telephone/Fax (1) 8508**]
   (cell); [**Telephone/Fax (1) 8523**] (house)), [**Doctor First Name 866**] [**Telephone/Fax (1) 8507**] (friend)
   -Other contact #s:
   [**Doctor First Name **] (therapist, friend of [**Name (NI) **]): [**Telephone/Fax (1) 8524**]
   [**Doctor Last Name **] (ex-boyfriend, not allowed into ICU): [**Telephone/Fax (1) 8525**]
   [**Doctor First Name **] - Charge Nurse/Boss at her work: [**Telephone/Fax (1) 8526**]
   .
   -Plasmapheresis: catheter placed by IR, performed [**7-14**]
   -ET tube cuff didn't deflate when repositioning; anesthesia
   re-intubated
   .
   -Faxed order for HSV PCR on CSF on [**2184-7-14**] - will take 3-5 days to
   return as it is a sendout. Fax: [**Telephone/Fax (1) 8527**] (attn: Lab); Lab main
   phone number [**Telephone/Fax (1) 8528**] (main lab) - call and cancel as we sent our
   own.
   -Medical records: [**Telephone/Fax (1) 8529**]; they sent ER records from [**2184-7-13**]. They
   did not send her prior visits for malaria treatment - requested [**2184-7-14**]
   at 1630.
   -Pelvic: Pt currently with period-unable to assess for perineal
   bruising (may also partially explain her Hct drop)
   .
   -LP performed, opening pressure = 220mm H2O(>250 suggests increased
   intracranial pressure)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-7-14**] 06:45 AM
   Ceftriaxone - [**2184-7-14**] 08:44 PM
   Acyclovir - [**2184-7-15**] 01:51 AM
   Doxycycline - [**2184-7-15**] 01:52 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2184-7-14**] 07:40 AM
   Propofol - [**2184-7-14**] 02:31 PM
   Famotidine (Pepcid) - [**2184-7-14**] 07:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-15**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.9
C (100.2
   HR: 88 (88 - 124) bpm
   BP: 98/54(64) {97/52(64) - 131/89(96)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,322 mL
                                                                  1,044 mL
   PO:
             TF:
   IVF:
                                                                  3,322 mL
                                                                    954 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    370 mL
   Urine:
                                                                  1,170 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,712 mL
                                                                    674 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.44/31/99.[**Numeric Identifier **]/23/-1
   Ve: 6.3 L/min
   PaO2 / FiO2: 250
   100% AC 450 x 14 with FiO2 40% with PEEP 5.
   Physical Examination
   General Lying in bed, hiccuping occasionally, unresponsive
   HEENT For CN exam see below. Sclera anicteric, MMM with no visible oral
   lesions though view of oral mucosa is limited. No papilledema
   Neck Supple no adenopathy
   Pulm Lungs clear bilaterally, no rales or wheezing
   CV Regular S1 S2 no m/r/g
   Abd Soft nontender +bowel sounds no organomegaly or mass
   Extrem Warm palpable pulses
   Neuro Opens eyes to voice and sternal rub, does not follow commands.
   LUE held in flexion, head rotated to right
   Derm No rash or jaundice appreciated, no peripheral stigmata of
   endocarditis. PEARL, does not blink to threat, does not track.
   Vestibuloocular reflex is intact. Does not follow commands. No
   withdrawal to painful stimuli. Toes downgoing bilaterally. No clonus.
   lines/tubes/drains foley with yellow urine
   Labs / Radiology
   301 K/uL
   9.6 g/dL
   167 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   8 mg/dL
   106 mEq/L
   136 mEq/L
   26.0 %
   16.3 K/uL
        [image002.jpg]
                             [**2184-7-14**]  08:38 AM
                             [**2184-7-14**]  11:06 AM
                             [**2184-7-14**]  04:38 PM
                             [**2184-7-14**]  09:50 PM
                             [**2184-7-15**]  03:13 AM
   WBC
   10.7
   16.3
   16.3
   Hct
   24.1
   28.1
   26.0
   Plt
   497
   320
   301
   Cr
   0.6
   0.6
   TCO2
   22
   Glucose
   121
   167
   Other labs:
   PT / PTT / INR:15.2/26.6/1.3,
   Alb: pending
   Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   .
   Parasite smear: negative
   .
   CSF [**2184-7-15**]: opening pressure 220 mm H2O
                                     CSF
                                  Chemistry
                                    Protein
                                     25
                                    Glucose
                                     87
   .
     CSF
                                      WBC
                                      2
                                      RBC
                                      1
                                     Poly
                                     76
                                     Lymph
                                     18
                                     Mono
                                      6
                                      EOs
   .
   [**7-15**] Cultures pending, cryptococcus negative,
   .
   RPR negative
   .
   P. falciparum positive
   .
   [**7-14**] BCx pending
   [**7-14**] UCx pending
   MRSA pending
   .
   [**2184-7-15**] CXR pending
   .
   [**7-14**] CT head 1:
   There is no evidence of acute hemorrhage, edema, mass effect or
   infarction. The [**Doctor Last Name 1359**]-white matter differentiation is preserved. The
   ventricles are normal in size and appearance. There is a large right
   maxillary mucus-retention cyst; otherwise, the visualized paranasal
   sinuses
   and mastoid air cells are unremarkable. No osseous abnormality is
   identified.
   IMPRESSION: No evidence of cerebral edema or other finding to suggest
   cerebral malaria on this unenhanced CT examination.
   .
   [**7-14**] CT head 2:
   No acute intracranial abnormality. No specific evidence for
   cerebral edema on this examination. MRI may be more sensitive for acute
   changes if clinical concern remains
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 MALARIA
   .
   Assessment and Plan:
   This 24F with recent falciparum malaria is evaluated for altered mental
   status.
   .
   * Altered mental status, suspected cerebral malaria - Patient had
   questionable seizure and remains altered. She does not have a known
   seizure disorder. Current confusional state may reflect post-ictal
   status or, less likely, nonconvulsive status. I am most concerned for
   an underlying CNS infection.
   .
   Bacterial meningitis seems less likely in the face of an unremarkable
   CSF wbc count, protein, and glucose. Her elevated CSF RBC count raises
   the question of herpes encephalitis - however would expect elevated
   protein with CNS herpes; suspect RBCs are [**12-22**] to traumatic OSH spinal
   tap.
   .
   She is not known to be HIV positive - though this needs to be
   clarified.
   .
   Among other noninfectious causes of her confusion, consider also toxic
   ingestion though less likely with her negative tox screens. Her basic
   metabolic panel here is notable only for mild hyperglycemia and an
   anion gap (see below). Head CT shows no evidence of bleed or mass
   lesion to account for her symptoms.
   .
   - Intubate for airway protection
   - Empiric IV quinidine. Consider discussing with CDC regarding
   artemesinin availability.
   - Will continue acyclovir for now pending HSV PCR though think less
   likely
   - Continue ceftriaxone 2g daily given increased risk of GNR infection
   in this setting
   - Continuous EKG monitoring while on quinidine
   - Follow fingerstick q4h
   - Follow parasite smears daily
   - Given concern for CNS malaria will discuss exchange transfusion with
   bloodbank
   - HIV
   - EEG
   - Add on Ca/Mag/Phos
   - Consider MRI head
   - Seizure precautions
   - ID recommendations appreciated
   - Consider neurology consult
   .
   * Fever
   Fevers are most likely due to malaria, as above. Other considerations
   includ aspiration pneumonitis/pneumonia given her altered mental
   status; however her CXR does not show any infiltrate. She has mild
   pyuria on her UA - ?whether her reported right flank pain may have been
   [**12-22**] pyelonephritis. No diarrhea or abdominal tenderness worrisome for
   an infectious GI process.
   - Malaria empiric treatment as above
   - Continuing ceftriaxone as above
   - Follow up pending blood cultures, add on urine culture
   - Call OSH for pending micro results
   - Obtain further records regarding treatment and workup from [**Hospital1 958**]
   .
   * Gap acidosis
   Malaria could cause acidosis. [**Month (only) 8**] be due to starvation ketosis given
   urine ketones. Not hyperglycemic to suggest DKA. Lactate is within
   normal limits. Ingestion a consideration but less likely with negative
   urine and serum tox screens.
   - Repeat electrolytes
   - Add on Osms
   - Check ABG
   .
   * Anemia
   Baseline Hct uncertain. With question of malaria hemolysis is obviously
   a concern - however patient's total bilirubin is within normal limits.
   No report of bleeding. INR only minimally elevated - think DIC is less
   likely.
   - Add on haptoglobin/LDH, fibrinogen, check peripheral smear
   - Follow CBC and coags [**Hospital1 **], maintain T+S, transfuse Hct>25
   .
   * Domestic abuse
   - Social work consult
   - Screen visitors
   .
   FEN NPO given altered MS
   Access PIV x2, ?pheresis catheter pending exchange transfusion plans
   PPX pneumoboots, PPI
   Dispo ICU
   Code presumed full
   Comm: [**Name (NI) 8501**] [**Name (NI) 8522**] (cousin/brother, [**Telephone/Fax (1) 8508**] (cell); [**Telephone/Fax (1) 8523**]
   (house)) [**First Name8 (NamePattern2) 77**] [**Doctor First Name 866**] safe to call him, [**Doctor First Name 866**] [**Telephone/Fax (1) 8507**] (friend)
   -Do not let in [**Doctor Last Name **] Tah (ex-boyfriend)
   ICU [**Name (NI) 151**]
   Nutrition: NPO
   Glycemic Control:  monitoring
   Lines:
   22 Gauge - [**2184-7-14**] 06:56 AM
   20 Gauge - [**2184-7-14**] 09:56 AM
   PICC Line - [**2184-7-14**] 02:26 PM
   Pheresis Catheter - [**2184-7-14**] 03:27 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments: [**Name (NI) 8501**] [**Name (NI) 8522**] (cousin/brother, [**Telephone/Fax (1) 8508**]
   (cell); [**Telephone/Fax (1) 8523**] (house)) [**First Name8 (NamePattern2) 77**] [**Doctor First Name 866**] safe to call him, [**Doctor First Name 866**]
   [**Telephone/Fax (1) 8507**] (friend)
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2184-07-15 09:29:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Required reintubation yesterday following unplanned removal of ETT
   during repositioning.
   LP performed last PM, openning pressure 20-21 cm H2O.
   Sedated.
   Occasional opening of eyes and upper arms.  Non-purposeful.
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-7-14**] 06:45 AM
   Acyclovir - [**2184-7-15**] 01:51 AM
   Doxycycline - [**2184-7-15**] 01:52 AM
   Ceftriaxone - [**2184-7-15**] 08:58 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2184-7-14**] 02:31 PM
   Famotidine (Pepcid) - [**2184-7-15**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-7-15**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 36.8
C (98.3
   HR: 90 (84 - 120) bpm
   BP: 101/50(62) {97/48(59) - 123/89(96)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.5 kg (admission): 53.4 kg
             Total In:
                                                                  5,322 mL
                                                                  1,585 mL
   PO:
             TF:
   IVF:
                                                                  3,322 mL
                                                                  1,495 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                  1,110 mL
   Urine:
                                                                  1,170 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,712 mL
                                                                    475 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 458 (458 - 458) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.44/31/99.[**Numeric Identifier **]/23/-1
   Ve: 6 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal, non-communicative
   Labs / Radiology
   9.6 g/dL
   301 K/uL
   167 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   8 mg/dL
   106 mEq/L
   136 mEq/L
   26.0 %
   16.3 K/uL
        [image002.jpg]
                             [**2184-7-14**]  08:38 AM
                             [**2184-7-14**]  11:06 AM
                             [**2184-7-14**]  04:38 PM
                             [**2184-7-14**]  09:50 PM
                             [**2184-7-15**]  03:13 AM
   WBC
   10.7
   16.3
   16.3
   Hct
   24.1
   28.1
   26.0
   Plt
   497
   320
   301
   Cr
   0.6
   0.6
   TCO2
   22
   Glucose
   121
   167
   Other labs: PT / PTT / INR:15.2/26.6/1.3, Alk Phos / T Bili:/0.3,
   Lactic Acid:0.8 mmol/L, LDH:206 IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   24 yof from [**Country 1773**] with probable CNS Malaria
   RESPIRATORY FAILURE -- intubated predominately for airway protection.
   No evidence for active  pulmonary disease.  Plan continue mechanical
   ventilation, adjust tube [**12-23**] cms (right mainstem intubation on most
   recent CXR).  Monitor ABG.
   ALTERED MENTAL STATUS -- found down, and unresponsive in the field.
   Unclear duration.  Concerns include ingestion/OD, seizure with
   postictal state or status epilepticus, CNS infection (encephalitis
   rather than meningitis), acute stroke syndrome, malaria with CNS
   involvement (i.e. cerebral malaria).  No signs suicide attempt.  Doubt
   cardiac event.   Initial CT scan (outside hosptial) suggests sulci
   effacement, although poor quality scan.  Head CT unrevealing.  EEG
   (possible continuous), follow up CSF cultures (check for HSV), maintain
   mechanical ventilation.  For MRI of head.
   MALARIA -- Falciparum.  High mortality rate on appropriate therapy.
   Quinidine Rx.  Follow parasite peripheral blood smears.  Monitor
   glucose, monitor Mg.  Transfusion Medicine consultation in progress.
   ID consultation in progress.  Empiric IV quinidine, consider
   artemesinin (available through CDC).  Monitor ECG, glucose.
   FEVER -- attributed to malaria.  Maintain concerns for other sources,
   related to malaria or other complicating infections.  Monitor cultures.
   ANEMIA -- attributed in part to malaria.
   FLUIDS -- hypovolemic.  Monitor I/O.  Now with PICC and central access
   (via phoresis catheter).
   NUTRITIONAL SUPPORT -- initiate TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2184-7-14**] 06:56 AM
   20 Gauge - [**2184-7-14**] 09:56 AM
   PICC Line - [**2184-7-14**] 02:26 PM
   Pheresis Catheter - [**2184-7-14**] 03:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2184-07-16 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2184-7-15**] 08:34 AM
 EKG - At [**2184-7-15**] 11:00 AM
 MAGNETIC RESONANCE IMAGING - At [**2184-7-15**] 05:18 PM
   -ID recs: already followed today as of [**2184-7-5**] at 1054. Added ehrlicia,
   LCMV serologies.  Also mentioned possibly sending ricksettia conori
   (although likely CDC send out and not sent)
   -Neuro recs: f/u EEG and MRI results
   - vent changes: AC to CPAP/PS 10/5 FiO2 .3
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-7-14**] 06:45 AM
   Ceftriaxone - [**2184-7-15**] 08:58 AM
   Acyclovir - [**2184-7-16**] 01:43 AM
   Doxycycline - [**2184-7-16**] 01:43 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-7-15**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-16**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 79 (73 - 97) bpm
   BP: 109/67(77) {90/41(52) - 119/80(88)} mmHg
   RR: 14 (9 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.5 kg (admission): 53.4 kg
             Total In:
                                                                  4,228 mL
                                                                  1,349 mL
   PO:
             TF:
   IVF:
                                                                  4,138 mL
                                                                  1,286 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                    495 mL
   Urine:
                                                                  2,930 mL
                                                                    495 mL
   NG:
                                                                    170 mL
   Stool:
   Drains:
   Balance:
                                                                  1,128 mL
                                                                    854 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 422 (422 - 6,000) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 80
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.46/36/203/28/2
   Ve: 4.5 L/min
   PaO2 / FiO2: 677
   Physical Examination
   General Lying in bed, intubated, eyes wide open, following commands
   Pulm Lungs clear bilaterally, no rales or wheezing
   CV Regular S1 S2 no m/r/g
   Abd Soft nontender +bowel sounds, no organomegaly or mass
   Extrem Warm, palpable pulses
   Labs / Radiology
   286 K/uL
   8.2 g/dL
   132 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.5 mEq/L
   5 mg/dL
   111 mEq/L
   141 mEq/L
   23.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2184-7-14**]  08:38 AM
                             [**2184-7-14**]  11:06 AM
                             [**2184-7-14**]  04:38 PM
                             [**2184-7-14**]  09:50 PM
                             [**2184-7-15**]  03:13 AM
                             [**2184-7-15**]  02:00 PM
                             [**2184-7-15**]  02:18 PM
                             [**2184-7-15**]  07:05 PM
                             [**2184-7-16**]  05:09 AM
   WBC
   10.7
   16.3
   16.3
   12.9
   11.8
   8.6
   Hct
   24.1
   28.1
   26.0
   23.5
   25.0
   23.7
   Plt
   497
   320
   301
   [**Telephone/Fax (3) 8565**]
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   22
   26
   Glucose
   121
   167
   131
   132
   Other labs: PT / PTT / INR:13.8/24.9/1.2, ALT / AST:13/13, Alk Phos / T
   Bili:55/3.0 (from 0.3), Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL,
   LDH:206 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   .
   Head MRI- read pending
   EEG- read pending
   RPR negative
   Cryptococcal negative
   CSF cx prelm neg
   Lyme, c diff, anaplasma, LCMV, babesia- pending
   Assessment and Plan
   This 24F with recent falciparum malaria, presenting with altered mental
   status.
   .
   * Altered mental status
 MS much improved and now following commands.
    Currently, suspect cerebral malaria as pt has h/o P. falciparum
   malaria. However, other causes must be considered. Patient had
   questionable seizure although no known seizure disorder and remains
   altered. Current confusional state may reflect post-ictal status or,
   less likely, nonconvulsive status. EEG performed yesterday with read
   pending. LP performed does not suggest bacterial meningitis or TB
   meningitis. HIV status unknown although pt negative 2 y ago per
   friends.  Toxic ingestion less likely as tox screens negative (Benzo
   positive most likely b/c pt received ativan for ?seizure). Head CT
   shows no evidence of bleed or mass lesion to account for her symptoms.
   MRI done yesterday but read pending. Pt intubated for airway protection
   only and now that she is following commands, will plan to extubate this
   AM.  She received plasma exchange transfusion on day of admission to
   decrease parasitemia. Last smear negative.
   -Appreciate ID and neuro recs- will f/u
   -Continue IV quinidine at lowered dose suggested by ID. If pt has s/e,
   call [**First Name8 (NamePattern2) 8534**] [**Last Name (NamePattern1) 8535**] (ID)- CDC papers for artemesinin are in back of pt
   chart.
   - Continue acyclovir pending HSV PCR
 f/u at [**Hospital1 958**] and [**Hospital1 5**]- can d/c
   once negative
   - s/p 3 days of ceftriaxone, initially to cover for possible meningitis
   but doses changed to tx pyuria
   - F/u blood, urine, CSF studies (sent for cultures, HSV PCR, Lyme, EEE,
   West [**Doctor First Name 3223**] per ID recs)
   - EKG [**Hospital1 **] to evaluate for QT prolongation
   - Follow fingerstick q4h as quinidine can cause hypoglycemia
   - Follow parasite smears [**Hospital1 **]
   - HIV status once pt able to give consent.
   - f/u read of MRI, EEG
   - Seizure precautions
   - extubate today
   .
   * Fever - Most likely due to malaria, as above.  Pneumonia unlikely as
   CXR clear. She has mild pyuria on her UA - ?whether her reported right
   flank pain may have been [**12-22**] pyelonephritis. No diarrhea or abdominal
   tenderness worrisome for an infectious GI process.
   - Malaria empiric treatment as above
   - s/p ceftriaxone as above
   - Follow up pending CSF Studies, blood and urine cultures
   - Call OSH for pending micro results
   - Obtain further records regarding prior malaria treatment and workup
   from [**Hospital1 958**]
 request faxed [**2184-7-14**] at 1400. Medical Records number
   above.
   .
   * Anemia - Baseline Hct uncertain. Concern for hemolysis as elevated t
   bili today.  INR only minimally elevated - think DIC is less likely. Pt
   currently with period which may be contributing.  Will trend hct [**Hospital1 **].
   - Follow CBC
   -Check coags, if concerning, will add remainder of DIC labs
   .
   * Domestic abuse
   - Social work consult
   - Screen visitors
   ICU [**Name2 (NI) 151**]
   Nutrition: TPN for now with plans to advance as tolerated after
   extubation
   TPN without Lipids - [**2184-7-16**] 06:00 AM 41 mL/hour
   Glycemic Control:  monitoring
   Lines:
   22 Gauge - [**2184-7-14**] 06:56 AM
   20 Gauge - [**2184-7-14**] 09:56 AM
   PICC Line - [**2184-7-14**] 02:26 PM
   Pheresis Catheter - [**2184-7-14**] 03:27 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments: [**Name (NI) 8501**] [**Name (NI) 8522**] (cousin/brother, [**Telephone/Fax (1) 8508**]
   (cell); [**Telephone/Fax (1) 8523**] (house)) [**First Name8 (NamePattern2) 77**] [**Doctor First Name 866**] safe to call him, [**Doctor First Name 866**]
   [**Telephone/Fax (1) 8507**] (friend); Do not let in [**Doctor Last Name **] Tah (ex-boyfriend)
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2184-07-16 10:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Neurologically continues to make clinical improvement, now attending,
   following simple commands.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-7-14**] 06:45 AM
   Acyclovir - [**2184-7-16**] 01:43 AM
   Doxycycline - [**2184-7-16**] 01:43 AM
   Ceftriaxone - [**2184-7-16**] 09:53 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2184-7-16**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.6
C (96.1
   HR: 72 (69 - 91) bpm
   BP: 111/68(78) {97/51(62) - 119/80(88)} mmHg
   RR: 12 (9 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 56.5 kg (admission): 53.4 kg
             Total In:
                                                                  4,228 mL
                                                                  1,988 mL
   PO:
             TF:
   IVF:
                                                                  4,138 mL
                                                                  1,819 mL
   Blood products:
   Total out:
                                                                  3,100 mL
                                                                  1,170 mL
   Urine:
                                                                  2,930 mL
                                                                  1,170 mL
   NG:
                                                                    170 mL
   Stool:
   Drains:
   Balance:
                                                                  1,128 mL
                                                                    818 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 380 (380 - 6,000) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 30%
   RSBI: 80
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.46/36/203/28/2
   Ve: 8.2 L/min
   PaO2 / FiO2: 677
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Not assessed, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   286 K/uL
   132 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.5 mEq/L
   5 mg/dL
   111 mEq/L
   141 mEq/L
   23.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2184-7-14**]  08:38 AM
                             [**2184-7-14**]  11:06 AM
                             [**2184-7-14**]  04:38 PM
                             [**2184-7-14**]  09:50 PM
                             [**2184-7-15**]  03:13 AM
                             [**2184-7-15**]  02:00 PM
                             [**2184-7-15**]  02:18 PM
                             [**2184-7-15**]  07:05 PM
                             [**2184-7-16**]  05:09 AM
   WBC
   10.7
   16.3
   16.3
   12.9
   11.8
   8.6
   Hct
   24.1
   28.1
   26.0
   23.5
   25.0
   23.7
   Plt
   497
   320
   301
   [**Telephone/Fax (3) 8565**]
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   22
   26
   Glucose
   121
   167
   131
   132
   Other labs: PT / PTT / INR:13.8/24.9/1.2, ALT / AST:13/13, Alk Phos / T
   Bili:55/3.0, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:206 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   24 yof from [**Country 1773**] with probable CNS Malaria
   RESPIRATORY FAILURE -- intubated predominately for airway protection.
   No evidence for active  pulmonary disease.  Good progress.  Plan to
   move to extubation trial.
   ALTERED MENTAL STATUS -- Much improved.  Attributed to cerebral
   malaria.  Initially found down, and unresponsive in the field.  Unclear
   duration.  Concerns include ingestion/OD, seizure with postictal state
   or status epilepticus, CNS infection (encephalitis rather than
   meningitis), acute stroke syndrome, malaria with CNS involvement (i.e.
   cerebral malaria).  No signs suicide attempt.  Doubt cardiac event.
   Initial CT scan (outside hosptial) suggests sulci effacement, although
   poor quality scan.  Head CT unrevealing.  EEG (possible continuous),
   follow up CSF cultures (check for HSV), maintain mechanical
   ventilation.  MRI of head unrevealing.
   MALARIA -- Falciparum.  High mortality rate on appropriate therapy.
   Quinidine Rx.  Follow parasite peripheral blood smears.  Monitor
   glucose, monitor Mg.  Transfusion Medicine consultation in progress.
   ID consultation in progress.  Empiric IV quinidine, consider
   artemesinin (available through CDC).  Monitor ECG, glucose.
   FEVER -- attributed to malaria.  Maintain concerns for other sources,
   related to malaria or other complicating infections.  Monitor cultures.
   ANEMIA -- attributed in part to malaria.
   FLUIDS -- hypovolemic.  Monitor I/O.  Now with PICC and central access
   (via phoresis catheter).
   NUTRITIONAL SUPPORT -- hold TF pending extubation trial.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2184-7-16**] 06:00 AM 41 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2184-7-14**] 06:56 AM
   20 Gauge - [**2184-7-14**] 09:56 AM
   PICC Line - [**2184-7-14**] 02:26 PM
   Pheresis Catheter - [**2184-7-14**] 03:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Pt. experienced generalized tonic-clonic seizure while in bed.  Noted
   to exhibit some confusion immediately prior to onset of seizure.
   Duration <1 minute, with gradually  awakening  within 5 minutes.  Did
   not require acute pharmachological agents.  Noted to have brief
   ventricular ectopy during post-ictal period, without hemodynamic
   consequence
 back to NSR.  Currently sleeping, but arrousable.
   Neurology staff present.  Likely complication of CNS malaria.  Plan to
   administer iv Dilantin loading, followed by maintenance iv dosing.
   Seizure precautions.  Monitor for ectopy.  F/U electrolytes, including
   Mg.
   Total time providing critical care= 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2184-7-16**] 19:12 ------

2184-07-17 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2184-7-16**] 11:09 AM
   .
   [**7-16**]
   - extubated yesterday AM
   - lidocaine patch for LP back pain
   - not compentent to consent to HIV testing
   - generalized seizure lasting 30-45 seconds.  Neurology was present.
   Not given ativan.  Not reintubated.  Loaded with 1000 mg fosphenytoin.
   Therapeutic at MN.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2184-7-16**] 09:53 AM
   Acyclovir - [**2184-7-17**] 12:41 AM
   Doxycycline - [**2184-7-17**] 01:10 AM
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2184-7-16**] 07:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-17**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 85 (71 - 95) bpm
   BP: 107/48(74) {98/46(64) - 124/92(105)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 96% RA
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 53.4 kg
             Total In:
                                                                  5,174 mL
                                                                    713 mL
   PO:
             TF:
   IVF:
                                                                  4,436 mL
                                                                    394 mL
   Blood products:
   Total out:
                                                                  4,180 mL
                                                                  1,400 mL
   Urine:
                                                                  4,130 mL
                                                                  1,400 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    994 mL
                                                                   -687 mL
   Physical Examination
   General: following commands consistently per NSG
   Pulm Lungs clear bilaterally, no rales or wheezing
   CV Regular S1 S2 no m/r/g
   Abd Soft nontender +bowel sounds, no organomegaly or mass
   Extrem Warm, palpable pulses
   Labs / Radiology
   359 K/uL
   9.0 g/dL
   122 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.5 mEq/L
   6 mg/dL
   107 mEq/L
   139 mEq/L
   25.9 %
   10.0 K/uL
        [image002.jpg]
   3 point Hct drop (not dilutional)
 repeat sent this AM.
                             [**2184-7-14**]  09:50 PM
                             [**2184-7-15**]  03:13 AM
                             [**2184-7-15**]  02:00 PM
                             [**2184-7-15**]  02:18 PM
                             [**2184-7-15**]  07:05 PM
                             [**2184-7-16**]  05:09 AM
                             [**2184-7-16**]  05:43 PM
                             [**2184-7-16**]  06:26 PM
                             [**2184-7-16**]  11:39 PM
                             [**2184-7-17**]  05:24 AM
   WBC
   16.3
   16.3
   12.9
   11.8
   8.6
   14.3
   10.0
   Hct
   28.1
   26.0
   23.5
   25.0
   23.7
   28.2
   25.9
   Plt
   [**Telephone/Fax (3) 8592**]99
   286
   346
   359
   Cr
   0.6
   0.6
   0.5
   0.6
   0.4
   0.4
   TCO2
   26
   Glucose
   167
   131
   132
   159
   119
   122
   Other labs:
   ALT / AST:24/26, Alk Phos / T Bili:64/0.6,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   .
   Parasite smear: pending
   .
   Phenytoin: pending
   .
   [**7-15**] Head MRI- Final
   There are findings suggestive of venous hyperemia, which could
   be secondary to infectious or inflammatory processes and correlation
   with CSF
   sampling is suggested.
   [**7-15**] EEG-
   Abnormal portable EEG due to the very low voltage slow
   background at the beginning of the recording. This appeared to be due
   to medication effect. After weaning off the propofol there was some
   drowsiness and some sleep. There were no focal abnormalities or
   epileptiform features.
   .
   C diff negative
   .
CSF [**2184-7-15**]
[**2184-7-15**] 12:48 am CSF;SPINAL FLUID      3.
   GRAM STAIN (Final [**2184-7-15**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   FLUID CULTURE (Preliminary):    NO GROWTH.
   ACID FAST CULTURE (Preliminary):
      The sensitivity of an AFB smear on CSF is very low..
      If present, AFB may take 3-8 weeks to grow..
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   VIRAL CULTURE (Preliminary):    No Virus isolated so far.
    Lyme, c diff, anaplasma, CMV, babesia, EEE, West [**Doctor First Name 3223**]
 pending
   .
   CXR [**2184-7-17**]: none
   Assessment and Plan
   This 24F with recent falciparum malaria, presenting with altered mental
   status.
   .
   * Altered mental status
 MS much improved and now following commands.
   Currently, suspect cerebral malaria as pt has h/o P. falciparum
   malaria. However, other causes must be considered. Patient had
   questionable seizure although no known seizure disorder and remains
   altered. Current confusional state may reflect post-ictal status or,
   less likely, nonconvulsive status. EEG performed yesterday with read
   pending. LP performed does not suggest bacterial meningitis or TB
   meningitis. HIV status unknown although pt negative 2 y ago per
   friends.  Toxic ingestion less likely as tox screens negative (Benzo
   positive most likely b/c pt received ativan for ?seizure). Head CT
   shows no evidence of bleed or mass lesion to account for her symptoms.
   MRI done yesterday but read pending. Pt intubated for airway protection
   only and now that she is following commands, will plan to extubate this
   AM.  She received plasma exchange transfusion on day of admission to
   decrease parasitemia. Last smear negative.
   -Appreciate ID and neuro recs- will f/u
   -Continue IV quinidine at lowered dose suggested by ID. If pt has s/e,
   call [**First Name8 (NamePattern2) 8534**] [**Last Name (NamePattern1) 8535**] (ID)- CDC papers for artemesinin are in back of pt
   chart.
   - Continue acyclovir pending HSV PCR
 f/u at [**Hospital1 958**] and [**Hospital1 5**]- can d/c
   once negative
   - s/p 3 days of ceftriaxone, initially to cover for possible meningitis
   but doses changed to tx pyuria
   - F/u blood, urine, CSF studies (sent for cultures, HSV PCR, Lyme, EEE,
   West [**Doctor First Name 3223**] per ID recs)
   - EKG [**Hospital1 **] to evaluate for QT prolongation
   - Follow fingerstick q4h as quinidine can cause hypoglycemia
   - Follow parasite smears [**Hospital1 **]
   - HIV status once pt able to give consent.
   - f/u read of MRI, EEG
   - Seizure precautions
   - extubate today
   .
   * Fever - Most likely due to malaria, as above.  Pneumonia unlikely as
   CXR clear. She has mild pyuria on her UA - ?whether her reported right
   flank pain may have been [**12-22**] pyelonephritis. No diarrhea or abdominal
   tenderness worrisome for an infectious GI process.
   - Malaria empiric treatment as above
   - s/p ceftriaxone as above
   - Follow up pending CSF Studies, blood and urine cultures
   - Call OSH for pending micro results
   - Obtain further records regarding prior malaria treatment and workup
   from [**Hospital1 958**]
 request faxed [**2184-7-14**] at 1400. Medical Records number
   above.
   .
   * Anemia - Baseline Hct uncertain. Concern for hemolysis as elevated t
   bili today.  INR only minimally elevated - think DIC is less likely. Pt
   currently with period which may be contributing.  Will trend hct [**Hospital1 **].
   - Follow CBC
   -Check coags, if concerning, will add remainder of DIC labs
   .
   * Domestic abuse
   - Social work consult
   - Screen visitors
   ICU [**Name2 (NI) 151**]
   Nutrition:
   TPN without Lipids - [**2184-7-17**] 06:20 AM 41 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2184-7-14**] 02:26 PM
   Pheresis Catheter - [**2184-7-14**] 03:27 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  famotidine
   VAP:  bundle
   Comments:
   Communication:  Comments: [**Name (NI) 8501**] [**Name (NI) 8522**] (cousin/brother, [**Telephone/Fax (1) 8508**]
   (cell); [**Telephone/Fax (1) 8523**] (house)) [**First Name8 (NamePattern2) 77**] [**Doctor First Name 866**] safe to call him, [**Doctor First Name 866**]
   [**Telephone/Fax (1) 8507**] (friend); Do not let in [**Doctor Last Name **] Tah (ex-boyfriend)
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2184-07-17 12:29:00 Physician Attending Progress Note
Chief Complaint: sz, altered MS, prob cns malaria
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  24 yo F from [**Country 1773**], history of recent falciparum malaria
   presenting with altered mental status and sz from probable CNS malaria
   24 Hour Events:
 EKG - At [**2184-7-16**] 11:09 AM
   Successfully extubated yesterday
   Had brief seizure activity yesterday (30-45 sec), loaded with
   phosphenytoin
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2184-7-16**] 09:53 AM
   Acyclovir - [**2184-7-17**] 12:41 AM
   Doxycycline - [**2184-7-17**] 01:10 AM
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2184-7-16**] 07:15 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-17**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 82 (71 - 95) bpm
   BP: 111/58(71) {98/48(66) - 124/92(105)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 53.4 kg
             Total In:
                                                                  5,174 mL
                                                                  1,157 mL
   PO:
             TF:
   IVF:
                                                                  4,436 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  4,180 mL
                                                                  2,125 mL
   Urine:
                                                                  4,130 mL
                                                                  2,125 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    994 mL
                                                                   -968 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, awake and alert
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear with decreased b/b BS : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, oriented to place but
   confused as to date and city (? Language barrier verses confusion)
   Labs / Radiology
   9.0 g/dL
   359 K/uL
   122 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.5 mEq/L
   6 mg/dL
   107 mEq/L
   139 mEq/L
   25.9 %
   10.0 K/uL
        [image002.jpg]
                             [**2184-7-14**]  09:50 PM
                             [**2184-7-15**]  03:13 AM
                             [**2184-7-15**]  02:00 PM
                             [**2184-7-15**]  02:18 PM
                             [**2184-7-15**]  07:05 PM
                             [**2184-7-16**]  05:09 AM
                             [**2184-7-16**]  05:43 PM
                             [**2184-7-16**]  06:26 PM
                             [**2184-7-16**]  11:39 PM
                             [**2184-7-17**]  05:24 AM
   WBC
   16.3
   16.3
   12.9
   11.8
   8.6
   14.3
   10.0
   Hct
   28.1
   26.0
   23.5
   25.0
   23.7
   28.2
   25.9
   Plt
   [**Telephone/Fax (3) 8592**]99
   286
   346
   359
   Cr
   0.6
   0.6
   0.5
   0.6
   0.4
   0.4
   TCO2
   26
   Glucose
   167
   131
   132
   159
   119
   122
   Other labs: PT / PTT / INR:13.8/24.9/1.2, ALT / AST:24/26, Alk Phos / T
   Bili:64/0.6, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:206 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: [**7-15**] MRI head--reviewed
   [**7-15**] EEG without focal abnl
   Microbiology: parasite smear pending
   CSF HSV pending
   CSF prelim without cx growth
   Assessment and Plan
   24 yo F from [**Country 1773**], history of recent falciparum malaria presenting
   with altered mental status and sz from probable CNS malaria
   ALTERED MENTAL STATUS
   [**12-22**] presumed cerebral malaria. Possible additional component of
   post-ictal state given sz activity yesterday.
   Much improved
   Neuro input appreciated.
   Continue to monitor neuron exam.
   Repeat EEG if evidence of change in status.
   Continue empiric acyclovir pending hsv serologies from csf cx.
   MALARIA -- Falciparum.  Follow parasite peripheral blood smears daily.
   Id input appreciated. Once able to take PO will transition off IV
   quinidine and continue PO doxy to complete treatment course.
   SEIZURE
likely from CSF infection/malaria. Phosphenytoin loaded
   yesterday.  F/u additional neurology recommendations regarding further
   imaging or need for repeat eeg.
   UTI
s/p 3 days ctx for uncomplicated uti.
   ANEMIA -- attributed in part to malaria.  Hct now stable.
   Domestic violence hx/social situation/depression
social work c/s, pysch
   evaluation given hx of depression and prior suicidal gestures
   ICU
d/c foley and phoresis catheter
   ICU Care
   Nutrition:  continue tpn today
 transition to clears and advance diet
   as tolerates
   TPN without Lipids - [**2184-7-17**] 06:20 AM 41 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2184-7-14**] 02:26 PM
   Pheresis Catheter - [**2184-7-14**] 03:27 PM
   Prophylaxis:
   DVT: sq heparin
encourage  OOB to chair
   Stress ulcer:  no indication
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
> can transition to floor once taking pos and off IV
   quinidine gtt
   Total time spent: 40 minutes

2184-07-18 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2184-7-17**] 01:45 PM
   -Pt pulled out PICC. Placed PIV (+ has pheresis catheter). Continued
   TPN and quinidine drip. Changed doxy to PO (100mg PO BID).
   -Neuro: Start dilantin 100mg TID, daily dilantin trough levels with
   level> 10 (goal [**9-7**]) (page neuro res o/c if need help w/ dosing),
   call neuro if any suspicious seizure activity;  had psychomotor slowing
   but no focal deficits so no neuroimaging at this time, continuous 24h
   EEG; neuro will not see pt tmrw [**7-18**] but will f/u EEG.
   -needs daily dilantin levels in AM labs
   -L-spine ordered for back pain
   -Psych consulted: this is hypoactive delirium, no changes to meds, will
   follow with us so as delirium clears, they can better assess for
   depression/SI and hook her up with appropriate resources PRN; will NOT
   see [**Last Name (LF) 1639**], [**First Name3 (LF) 124**] see her Monday unless acute issues - then page them.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2184-7-16**] 09:53 AM
   Acyclovir - [**2184-7-17**] 12:41 AM
   Doxycycline - [**2184-7-17**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-18**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 69 (69 - 88) bpm
   BP: 101/73(80) {87/52(61) - 112/86(90)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 53.4 kg
             Total In:
                                                                  2,213 mL
                                                                    489 mL
   PO:
                                                                    280 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,076 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  2,765 mL
                                                                    350 mL
   Urine:
                                                                  2,765 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -552 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General: Arousable to voice, follows commands, Aox3, sluggish,
   Pulm Lungs clear bilaterally, no rales or wheezing; upper airway sounds
   CV Regular S1 S2 no m/r/g
   Abd Soft nontender +bowel sounds, no organomegaly or mass
   Extrem Warm, palpable pulses, 5/5 strength lower extremities
   Labs / Radiology
   346 K/uL
   9.4 g/dL
   126 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   9 mg/dL
   106 mEq/L
   140 mEq/L
   28.7 %
   9.1 K/uL
        [image002.jpg]
                             [**2184-7-15**]  02:18 PM
                             [**2184-7-15**]  07:05 PM
                             [**2184-7-16**]  05:09 AM
                             [**2184-7-16**]  05:43 PM
                             [**2184-7-16**]  06:26 PM
                             [**2184-7-16**]  11:39 PM
                             [**2184-7-17**]  05:24 AM
                             [**2184-7-17**]  12:00 PM
                             [**2184-7-17**]  06:00 PM
                             [**2184-7-18**]  04:02 AM
   WBC
   12.9
   11.8
   8.6
   14.3
   10.0
   9.1
   Hct
   23.5
   25.0
   23.7
   28.2
   25.9
   28.7
   Plt
   [**Telephone/Fax (3) 8610**]46
   359
   346
   Cr
   0.6
   0.5
   0.6
   0.4
   0.4
   0.6
   Glucose
   131
   132
   159
   119
   122
   124
   121
   126
   Other labs: PT / PTT / INR:13.8/24.9/1.2, ALT / AST:24/26, Alk Phos / T
   Bili:64/0.6, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:206 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   .
   Parasite smear negative (negative yesterday)
   Phenytoin level 11.7 (12.1 yesterday)
   CSF studies (Lyme, EEE, West [**Doctor First Name 3223**], CMV, HSV) pending
   Anaplasma, LCMV, babesia serologies pending
   CSF cx prelim neg
   [**7-14**] blood cx pending
   [**7-14**] urine cx neg
   EKG w/o QT prolongation
   [**Hospital1 958**]: HSV PCR not detected (d/c'd acyclovir). BCx NGTD at 3d, CSF
   NGTD at 4d. Faxed results to us.
   Assessment and Plan
   This 24F with recent falciparum malaria, presenting with altered mental
   status.
   .
   * Altered mental status
 MS much improved from admission and now
   following commands.  Currently, suspect cerebral malaria as pt has h/o
   P. falciparum malaria. MRI done demonstrates findings c/w
   infection/inflammation. She received plasma exchange transfusion on day
   of admission to decrease parasitemia. Last smear negative. However,
   other causes were considered. Patient had seizure [**7-16**], although no
   known seizure disorder. Current confusional state may reflect
   post-ictal status or, less likely, nonconvulsive status. EEG performed
   yesterday with results above. LP does not suggest bacterial meningitis
   or TB meningitis. HIV status unknown although pt negative 2 y ago per
   friends. Toxic ingestion less likely as tox screens negative (Benzo
   positive most likely b/c pt received ativan for ?seizure).
   -Appreciate ID and neuro recs- will f/u
   - Continue IV quinidine pending ID recs to stop (will likely stop
   today)
   - d/c acyclovir yesterday as HSV PCR negative at [**Hospital1 958**]
   - Completed 3 days of ceftriaxone for uncomplicated UTI
   - F/u blood, urine, CSF studies (sent for cultures, HSV PCR, Lyme, EEE,
   West [**Doctor First Name 3223**] per ID recs)
   - EKG [**Hospital1 **] to evaluate for QT prolongation on quinidine
   - Follow fingerstick q4h as quinidine can cause hypoglycemia
   - Follow parasite smears [**Hospital1 **]
 will check with ID as to when they can
   be d/c
d as they have been negative to date.
   - HIV status once pt able to give consent.
   - Seizure precautions
   - plan for 24 hr EEG soon per neuro
   -started Dilantin for seizures
   .
   * Fever
 Resolved. Most likely due to malaria.
   - Malaria empiric treatment as above
   - Follow up pending CSF Studies, blood and urine cultures
   - [**Hospital1 958**] blood cx ngtd x 3 days, csf cx ngtd x 4 days
   - Obtain further records regarding prior malaria treatment and workup
   from [**Hospital1 958**]
 request faxed [**2184-7-14**] at 1400. Medical Records number in
   team census.
   .
   * Anemia - Baseline Hct uncertain. Hemolysis labs unremarkable. Coags
   nl so DIC less likely.
   - Follow CBC
   .
   * Depression
 pt with h/o depression and suicide attempts. Also victim
   of domestic abuse
   - f/u psych recs
   - Social work following
   - Screen visitors
   .
   *Nutrition- Advanced to regular diet with nutrition consult for calorie
   count.  Suggested additional Ensure tid and MVI daily which will be
   ordered.  Will monitor po intake and see if she needs more supplemental
   nutrition.
   .
   *Activity- Changed from bedrest to activity with assistance and seemed
   ataxic per NSG.  PT consulted and neuro following.
   ICU Care
   Nutrition: Regular
   Glycemic Control:  ISS
   Lines:
   Pheresis Catheter - [**2184-7-14**] 03:27 PM
   22 Gauge - [**2184-7-17**] 02:00 PM
   Prophylaxis:
   DVT: pneumoboots, heparin sq
   Stress ulcer: not indicated
   VAP:  n/a
   Comments:
   Communication:  Comments: [**Name (NI) 8501**] [**Name (NI) 8522**] (cousin/brother, [**Telephone/Fax (1) 8508**]
   (cell); [**Telephone/Fax (1) 8523**] (house)) [**First Name8 (NamePattern2) 77**] [**Doctor First Name 866**] safe to call him, [**Doctor First Name 866**]
   [**Telephone/Fax (1) 8507**] (friend); Do not let in [**Doctor Last Name **] Tah (ex-boyfriend)
   [**Name (NI) 156**] status: Full code
   Disposition: -call out once off quinidine drip

2184-07-18 11:33:00 Physician Attending Progress Note
Chief Complaint: Aletered MS, sz ins etting of cerebral malaria
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 yo F from [**Country 1773**], history of recent falciparum malaria presenting
   with altered mental status and sz from probable CNS malaria
   24 Hour Events:
 PICC LINE - STOP [**2184-7-17**] 01:45 PM--self d/c'd, PIV placed
   dilantin started yesterday
   plan for continuous eeg montioring per neuro
   pxych consulted for depression
   tolerating POs
   HSV neg-->acyclovir stopped
   History obtained from Patient, HO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2184-7-16**] 09:53 AM
   Acyclovir - [**2184-7-17**] 12:41 AM
   Doxycycline - [**2184-7-17**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-18**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 89 (69 - 89) bpm
   BP: 105/69(77) {87/52(61) - 112/86(90)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 53.4 kg
             Total In:
                                                                  2,213 mL
                                                                  1,104 mL
   PO:
                                                                    280 mL
                                                                    420 mL
   TF:
   IVF:
                                                                  1,076 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  2,765 mL
                                                                    350 mL
   Urine:
                                                                  2,765 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -552 mL
                                                                    754 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed
   Labs / Radiology
   9.4 g/dL
   346 K/uL
   126 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   9 mg/dL
   106 mEq/L
   140 mEq/L
   28.7 %
   9.1 K/uL
        [image002.jpg]
                             [**2184-7-15**]  02:18 PM
                             [**2184-7-15**]  07:05 PM
                             [**2184-7-16**]  05:09 AM
                             [**2184-7-16**]  05:43 PM
                             [**2184-7-16**]  06:26 PM
                             [**2184-7-16**]  11:39 PM
                             [**2184-7-17**]  05:24 AM
                             [**2184-7-17**]  12:00 PM
                             [**2184-7-17**]  06:00 PM
                             [**2184-7-18**]  04:02 AM
   WBC
   12.9
   11.8
   8.6
   14.3
   10.0
   9.1
   Hct
   23.5
   25.0
   23.7
   28.2
   25.9
   28.7
   Plt
   [**Telephone/Fax (3) 8610**]46
   359
   346
   Cr
   0.6
   0.5
   0.6
   0.4
   0.4
   0.6
   Glucose
   131
   132
   159
   119
   122
   124
   121
   126
   Other labs: PT / PTT / INR:13.8/24.9/1.2, ALT / AST:24/26, Alk Phos / T
   Bili:64/0.6, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:206 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Microbiology: csf studies /serologies pending
   ECG: no QTc prolongation
   Assessment and Plan
   24 yo F from [**Country 1773**], history of recent falciparum malaria presenting
   with altered mental status and sz from probable CNS malaria
   ALTERED MENTAL STATUS
   [**12-22**] presumed cerebral malaria.
   Much improved, though she remains hypoactive/apathetic and likely is
   component of depression/possible delirium compol.icating assessment.
   Neuro and psych input appreciated.
   Continue to monitor neuro exam.
   MALARIA -- Falciparum.  Follow parasite peripheral blood smears daily.
   Id input appreciated. Able to tolerate POs--will d/c IV quinidine and
   continue PO doxy to complete treatment course.
   SEIZURE
likely from CSF infection/malaria. Phosphenytoin loaded and
   now getting dilantin.  FOllow levels.  Plan for contoinuous eeg
   montioring on Monday per nruogoly. F/u additional neurology
   recommendations regarding further imaging or need for repeat eeg.
   UTI
s/p 3 days ctx for uncomplicated uti.
    ANEMIA -- attributed in part to malaria.  Hct now stable.
   Domestic violence hx/social situation/depression
social work c/s, pysch
   evaluation given hx of depression and prior suicidal gestures
   ICU
foley out, nutrition consult and ensure, consult PT
   ICU [**Name (NI) 151**]
   Nutrition:
   TPN without Lipids - [**2184-7-17**] 05:49 PM 45.[**Telephone/Fax (5) 1228**] mL/hour
   Comments: stop tpn as tolerating pos.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Pheresis Catheter - [**2184-7-14**] 03:27 PM
   22 Gauge - [**2184-7-17**] 02:00 PM
   Comments: Would d/c pheresis catheter as has peripherals.
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2184-07-19 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -advanced diet to POs with ensure tid supplement, activity to with
   assistance
   - per ID, keep on quinidine drip tonight and likely d/c tomorrow after
   seen by ID; keep checking peripheral smear daily
   - one episode of emesis after po intake with lunch
   - BPs trending down throughout evening- given IVF bolus and maintenance
   as low po intake
   - getting 24 hour EEG now- started around 4?: around 0030 patient
   pulled off many of the EEG leads while attempting to go to bedside
   commode.  Tried to contact EEG [**Name2 (NI) 726**] for lead replacement but was
   unsuccessful.  Notified neuro resident, and he's unlikely to be able to
   come reconnect patient.  Will probably need repeat study in future but
   no acute danger now as pt is therapeutic on dilantin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2184-7-16**] 09:53 AM
   Acyclovir - [**2184-7-17**] 12:41 AM
   Doxycycline - [**2184-7-19**] 06:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-7-18**] 08:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-19**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 72 (66 - 91) bpm
   BP: 99/56(67) {71/51(60) - 113/78(141)} mmHg
   RR: 14 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 53.4 kg
             Total In:
                                                                  2,587 mL
                                                                    865 mL
   PO:
                                                                    780 mL
             TF:
   IVF:
                                                                  1,090 mL
                                                                    865 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    800 mL
   Urine:
                                                                  1,050 mL
                                                                    800 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,237 mL
                                                                     65 mL
   Respiratory support
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General: Arousable to voice, follows commands, Aox3, sluggish,
   Pulm Lungs clear bilaterally, no rales or wheezing; upper airway sounds
   CV Regular S1 S2 no m/r/g
   Abd Soft nontender +bowel sounds, no organomegaly or mass
   Extrem Warm, palpable pulses, 5/5 strength lower extremities
   Labs / Radiology
   450 K/uL
   8.9 g/dL
   101 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.0 mEq/L
   8 mg/dL
   108 mEq/L
   142 mEq/L
   25.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2184-7-15**]  07:05 PM
                             [**2184-7-16**]  05:09 AM
                             [**2184-7-16**]  05:43 PM
                             [**2184-7-16**]  06:26 PM
                             [**2184-7-16**]  11:39 PM
                             [**2184-7-17**]  05:24 AM
                             [**2184-7-17**]  12:00 PM
                             [**2184-7-17**]  06:00 PM
                             [**2184-7-18**]  04:02 AM
                             [**2184-7-19**]  03:24 AM
   WBC
   11.8
   8.6
   14.3
   10.0
   9.1
   10.5
   Hct
   25.0
   23.7
   28.2
   25.9
   28.7
   25.9
   Plt
   299
   286
   346
   359
   346
   450
   Cr
   0.5
   0.6
   0.4
   0.4
   0.6
   0.6
   Glucose
   132
   159
   119
   122
   124
   121
   126
   101
   Other labs: Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Parasite smear negative (negative yesterday)
   Phenytoin level 10.6 (11.7 yesterday)
   Micro:
   Cdiff neg
   Lyme blood serology pending
   CSF studies (Lyme, EEE, West [**Doctor First Name 3223**], CMV, HSV) pending
   Anaplasma, LCMV, babesia serologies pending
   [**7-15**]: CSF cx neg (viral, acid fast, fungal pending)
   [**7-15**]: CSF crypto neg
   [**7-14**]: Blood RPR neg
   [**7-14**]: bloood malaria positive
   [**7-14**] blood cx pending
   [**7-14**] urine cx neg
   EEG [**7-19**]: pending read
   [**Hospital1 958**]: HSV PCR not detected (d/c'd acyclovir). BCx NGTD at 3d, CSF
   NGTD at 4d. Faxed results to us.
   Assessment and Plan
   This 24F with recent falciparum malaria, presenting with altered mental
   status.
   .
   * Altered mental status
 broad diff incl cerebral malaria, seizure, MS
   much improved from admission and now following commands.  Currently,
   suspect cerebral malaria as pt has h/o P. falciparum malaria. MRI done
   demonstrates findings c/w infection/inflammation. She received plasma
   exchange transfusion on day of admission to decrease parasitemia. Last
   smear negative. However, other causes were considered. Patient had
   seizure [**7-16**], although no known seizure disorder. Current confusional
   state may reflect post-ictal status or, less likely, nonconvulsive
   status. EEG performed yesterday with results above. LP does not suggest
   bacterial meningitis or TB meningitis. HIV status unknown although pt
   negative 2 y ago per friends. Toxic ingestion less likely as tox
   screens negative (Benzo
s positive most likely b/c pt received ativan
   for ?seizure).
   -Appreciate ID and neuro recs- will f/u
   - Continue IV quinidine pending ID recs to stop (will need two more
   days)
   - d/c acyclovir yesterday as HSV PCR negative at [**Hospital1 958**]
   - Completed 3 days of ceftriaxone for uncomplicated UTI
   - F/u blood, urine, CSF studies (sent for cultures, HSV PCR, Lyme, EEE,
   West [**Doctor First Name 3223**] per ID recs)
   - EKG daily to evaluate for QT prolongation on quinidine
   - Follow fingerstick q4h as quinidine can cause hypoglycemia
   - Follow parasite smears [**Hospital1 **]
 will check with ID as to when they can
   be d/c
d as they have been negative to date.
   - HIV status once pt able to give consent.
   - Seizure precautions
   - plan for 24 hr EEG soon per neuro
   - started Dilantin for seizures
   .
   * Fever
 Resolved. Most likely due to malaria.
   - Malaria empiric treatment as above
   - Follow up pending CSF Studies, blood and urine cultures
   - [**Hospital1 958**] blood cx ngtd x 3 days, csf cx ngtd x 4 days
   - Obtain further records regarding prior malaria treatment and workup
   from [**Hospital1 958**]
 request faxed [**2184-7-14**] at 1400. Medical Records number in
   team census.
   .
   * Anemia - Baseline Hct uncertain. Hemolysis labs unremarkable but
   parasites can cause hct drop. Coags nl so DIC less likely.
   - Follow CBC
   .
   * Depression
 pt with h/o depression and suicide attempts. Also victim
   of domestic abuse
   - f/u psych recs
   - Social work following
   - Screen visitors
   .
   *Nutrition- Advanced to regular diet with nutrition consult for calorie
   count.  Suggested additional Ensure tid and MVI daily which will be
   ordered.  Will monitor po intake and see if she needs more supplemental
   nutrition.
   .
   *Activity- Changed from bedrest to activity with assistance and seemed
   ataxic per NSG.  PT consulted and neuro following.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2184-7-14**] 03:27 PM
   22 Gauge - [**2184-7-17**] 02:00 PM
   Prophylaxis:
   DVT: pneumoboots, heparin sq
   Stress ulcer: not indicated
   VAP:  n/a
   Comments:
   Communication:  Comments: [**Name (NI) 8501**] [**Name (NI) 8522**] (cousin/brother, [**Telephone/Fax (1) 8508**]
   (cell); [**Telephone/Fax (1) 8523**] (house)) [**First Name8 (NamePattern2) 77**] [**Doctor First Name 866**] safe to call him, [**Doctor First Name 866**]
   [**Telephone/Fax (1) 8507**] (friend); Do not let in [**Doctor Last Name **] Tah (ex-boyfriend)
   [**Name (NI) 156**] status: Full code
   Disposition: -call out once off quinidine drip

2184-07-19 11:10:00 Physician Attending Progress Note
Chief Complaint: sz and altered MS in setting of cerebral malaria
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 yo F from [**Country 1773**], history of recent falciparum malaria presenting
   with altered mental status and sz from probable CNS malaria
   24 Hour Events:
 EKG - At [**2184-7-18**] 08:00 AM
 EEG - At [**2184-7-18**] 03:27 PM
   IV Quinidine gtt treatment course clarified with ID
plan to complete
   total of 7 days
   Continues to have poor PO intake
   Continuous eeg underway--> pt removed several  eeg leads
   Given I L NS overnight for systolic BP in 80
   History obtained from Patient, HO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2184-7-17**] 12:41 AM
   Doxycycline - [**2184-7-19**] 06:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-7-18**] 08:18 PM
   Other medications:
   Per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-19**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 86 (66 - 91) bpm
   BP: 103/63(72) {71/51(60) - 113/83(141)} mmHg
   RR: 19 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 53.4 kg
             Total In:
                                                                  2,587 mL
                                                                    946 mL
   PO:
                                                                    780 mL
             TF:
   IVF:
                                                                  1,090 mL
                                                                    946 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    800 mL
   Urine:
                                                                  1,050 mL
                                                                    800 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,237 mL
                                                                    146 mL
   Respiratory support
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   450 K/uL
   101 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.0 mEq/L
   8 mg/dL
   108 mEq/L
   142 mEq/L
   25.9 %
   10.5 K/uL
        [image002.jpg]
                             [**2184-7-15**]  07:05 PM
                             [**2184-7-16**]  05:09 AM
                             [**2184-7-16**]  05:43 PM
                             [**2184-7-16**]  06:26 PM
                             [**2184-7-16**]  11:39 PM
                             [**2184-7-17**]  05:24 AM
                             [**2184-7-17**]  12:00 PM
                             [**2184-7-17**]  06:00 PM
                             [**2184-7-18**]  04:02 AM
                             [**2184-7-19**]  03:24 AM
   WBC
   11.8
   8.6
   14.3
   10.0
   9.1
   10.5
   Hct
   25.0
   23.7
   28.2
   25.9
   28.7
   25.9
   Plt
   299
   286
   346
   359
   346
   450
   Cr
   0.5
   0.6
   0.4
   0.4
   0.6
   0.6
   Glucose
   132
   159
   119
   122
   124
   121
   126
   101
   Other labs: PT / PTT / INR:13.8/24.9/1.2, ALT / AST:24/26, Alk Phos / T
   Bili:64/0.6, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL, LDH:206 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: dilantin 10.6
   Microbiology: neg parasite smear
   csf/serologies pending
   neg urine, ngtd from blood
   Assessment and Plan
   24 yo F from [**Country 1773**], history of recent falciparum malaria presenting
   with altered mental status and sz from probable CNS malaria
   #  ALTERED MENTAL STATUS [**12-22**] presumed cerebral malaria w/ possible post
   ictal component from sz
   Much improved, though she remains apathetic-- likely is component of
   depression/possible delirium complicating
   assessment.  No further sz activity observed.
   Continue to follow neuro exam.
   Neuro and psych input appreciated.
   # MALARIA -- Falciparum.
   Follow parasite peripheral blood smears daily (clarify with ID).
   Quinidine course further clarified by ID team,  will remain on gtt to
   complete 7 days then to continue on po doxy to complete treatment
   course.  Follow daily ecg to monitor QTc. Will arrange for outpt ID
   f/u.
   # SEIZURE
likely from CSF infection/malaria.
   Continuous eeg monitoring ongoing.  S/p phosphenytoin load and now
   getting dilantin.  Adjusting per level, correcting for low albumin
   (recheck today).
   #Social situration/ h/o Domestic violence/ depression
social work
   following, pysch evaluation given hx of depression and prior suicidal
   gestures as may benefit from inpt psych treatment
   # ANEMIA
has been attributed in part to malaria.  Hct remains stable.
   Will send anemia w/u and eval for thalassemia.
   # ICU
PT following, encourage OOB with assist
   Remainder as per resident note
   ICU Care
   Nutrition: PO diet, ensure nutrition recs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Pheresis Catheter - [**2184-7-14**] 03:27 PM (will continue to use this for
   access as pt has pulled picc and PIVs)
   22 Gauge - [**2184-7-17**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin (until getting OOB), boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU while receiving IV gtt quinidine
   Total time spent: 40 minutes

2184-07-20 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -ID recs: given parasite smears are positive still, continue IV
   quinidine for now, switch Doxy to IV, check HIV test, recheck parasite
   load, continue EKG daily
   -lyme serology, CSF lyme negative
   -psych recs: no med recs, social work, delirium clouding assessment of
   depression, continuing to follow
   - HIV has been consented and sent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2184-7-19**] 06:35 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-20**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 70 (66 - 86) bpm
   BP: 93/55(65) {88/52(61) - 105/83(88)} mmHg
   RR: 14 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 53.4 kg
             Total In:
                                                                  1,436 mL
                                                                    188 mL
   PO:
             TF:
   IVF:
                                                                  1,436 mL
                                                                    188 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                      0 mL
   Urine:
                                                                  2,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,164 mL
                                                                    188 mL
   Respiratory support
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General: alert, oriented, follows commands
   Pulm: Lungs clear bilaterally, no rales or wheezing; upper airway
   sounds
   CV: Regular S1 S2 no m/r/g
   Abd: Soft nontender nondistended +bowel sounds, no organomegaly or mass
   Extrem: Warm, palpable pulses, no edema
   Psych: appropriate, pleasant
   Labs / Radiology
   438 K/uL
   9.4 g/dL
   74 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   8 mg/dL
   104 mEq/L
   141 mEq/L
   27.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2184-7-16**]  05:09 AM
                             [**2184-7-16**]  05:43 PM
                             [**2184-7-16**]  06:26 PM
                             [**2184-7-16**]  11:39 PM
                             [**2184-7-17**]  05:24 AM
                             [**2184-7-17**]  12:00 PM
                             [**2184-7-17**]  06:00 PM
                             [**2184-7-18**]  04:02 AM
                             [**2184-7-19**]  03:24 AM
                             [**2184-7-20**]  05:12 AM
   WBC
   8.6
   14.3
   10.0
   9.1
   10.5
   8.4
   Hct
   23.7
   28.2
   25.9
   28.7
   25.9
   27.0
   Plt
   286
   346
   359
   346
   450
   438
   Cr
   0.5
   0.6
   0.4
   0.4
   0.6
   0.6
   0.7
   Glucose
   132
   159
   119
   122
   124
   121
   126
   101
   74
   Other labs: PT / PTT / INR:13.8/24.9/1.2, T Bili:0.3, Albumin:3.2 g/dL,
   LDH:206 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Parasite smear pending (positive yesterday)
   TSH:2.6
   Vit-B12:523
   Folate:8.0
   Phenytoin: 12.4  Corrected is 16.8
   Hb electropheresis pending
   Other Blood Chemistry:
   Iron: 34
   calTIBC: 220
   Hapto: 138
   Ferritn: 398
   TRF: 169
   Micro:
   Cdiff neg
   Lyme blood serology negative
   CSF Lyme neg
   CSF studies (EEE, West [**Doctor First Name 3223**], CMV, HSV) pending
   Anaplasma, LCMV, babesia serologies pending
   [**7-15**]: CSF cx neg (viral, acid fast, fungal pending)
   [**7-15**]: CSF crypto neg
   [**7-14**]: Blood RPR neg
   [**7-14**]: bloood malaria positive
   [**7-14**] blood cx pending
   [**7-14**] urine cx neg
   EEG [**7-19**]: pending read
   EKG [**7-20**]: no QT prolongation
   [**Hospital1 958**]: HSV PCR not detected (d/c'd acyclovir). BCx NGTD at 3d, CSF
   NGTD at 4d. Faxed results to us.
   Assessment and Plan
   This 24F with recent falciparum malaria, presenting with altered mental
   status.
   .
   * Altered mental status
 much imrpoved since admission. broad diff
   incl cerebral malaria, seizure, meningoencephalitis, toxic ingestion,
   but most likely cerebral malaria as pt has h/o P. falciparum malaria
   and MRI done demonstrates findings c/w infection/inflammation. LP did
   not suggest bacterial meningitis or TB meningitis. HIV status unknown
   although pt negative 2 y ago per friends. Toxic ingestion less likely
   as tox screens were negative.
   - F/U ID and Neuro recs
   - Continue IV quinidine until blood smears clear
   - switch doxy from PO to IV
   - F/u CSF studies (sent for cultures, HSV PCR, Lyme, EEE, West [**Doctor First Name 3223**] per
   ID recs)
   - EKG daily to evaluate for QT prolongation on quinidine
   - Follow fingerstick q4h as quinidine can cause hypoglycemia
   - Follow parasite smears daily for now
   - f/u HIV (pt has already consented, HIV ordered)
   - Seizure precautions
   - F/U  EEG results, may have to repeat as likely suboptimal study (pt
   removed leads during study)
   - continue Dilantin for seizures, check daily Dilantin levels, check
   albumin for correction
   .
   * Fever
 Resolved. Most likely due to malaria.
   - Continue IV quinidine and IV doxy for now
   - Follow up pending CSF Studies
   .
   * Anemia - Baseline Hct uncertain. Hemolysis labs unremarkable but
   parasites can cause hct drop. Coags nl so DIC less likely.
   - Follow CBC
   - Fe studies, TSH, Vit B12, folate are all wnl
   - f/u Hb electropheresis
   .
   * Depression
 pt with h/o depression and suicide attempts. Also victim
   of domestic abuse.
   - f/u psych recs
   - given pt
s low PO intake and poor appetite, ask psych if mirtazipine
   is a good choice for her
   - Social work following
   - Screen visitors
   .
   *Nutrition- Advanced to regular diet with nutrition consult for calorie
   count.
   - continue Ensure tid and MVI daily
   - monitor po intake and see if she needs more supplemental nutrition.
   - check with psych regarding possibility of mirtazipine
   .
   *Activity- Changed from bedrest to activity with assistance and seemed
   ataxic per NSG.
   - PT consulted and working with her
   .
   ICU Care
   Nutrition:
   Glycemic Control:  d/c ISS
   Lines:
   Pheresis Catheter - [**2184-7-14**] 03:27 PM
   PICC placement today, will d/c pheresis catheter after
   Prophylaxis:
   DVT: pneumoboots, heparin sq
   Stress ulcer: not indicated
   VAP:  n/a
   Comments:
   Communication:  Comments: [**Name (NI) 8501**] [**Name (NI) 8522**] (cousin/brother, [**Telephone/Fax (1) 8508**]
   (cell); [**Telephone/Fax (1) 8523**] (house)) [**First Name8 (NamePattern2) 77**] [**Doctor First Name 866**] safe to call him, [**Doctor First Name 866**]
   [**Telephone/Fax (1) 8507**] (friend); Do not let in [**Doctor Last Name **] Tah (ex-boyfriend)
   [**Name (NI) 156**] status: Full code
   Disposition: -call out once off quinidine drip

2184-07-20 12:38:00 Physician Attending Progress Note
Chief Complaint: sz and altered MS in setting of cerebral malaria
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 yo F from [**Country 1773**], history of recent falciparum malaria presenting
   with altered mental status and sz from probable CNS malaria
   24 Hour Events:
 EKG - At [**2184-7-19**] 11:30 AM
   Malaria smears have turned positive after several days
   ID recs to change back to IV doxy and cont IV gtt quinidine for now.
   consented for HIV testing
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2184-7-19**] 06:35 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2184-7-20**] 12:14 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-20**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 81 (62 - 84) bpm
   BP: 90/47(57) {88/47(57) - 105/72(81)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 53.4 kg
             Total In:
                                                                  1,437 mL
                                                                    333 mL
   PO:
             TF:
   IVF:
                                                                  1,437 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    700 mL
   Urine:
                                                                  2,600 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,163 mL
                                                                   -367 mL
   Respiratory support
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : upper airway noise)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   438 K/uL
   74 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.9 mEq/L
   8 mg/dL
   104 mEq/L
   141 mEq/L
   27.0 %
   8.4 K/uL
        [image002.jpg]
                             [**2184-7-16**]  05:09 AM
                             [**2184-7-16**]  05:43 PM
                             [**2184-7-16**]  06:26 PM
                             [**2184-7-16**]  11:39 PM
                             [**2184-7-17**]  05:24 AM
                             [**2184-7-17**]  12:00 PM
                             [**2184-7-17**]  06:00 PM
                             [**2184-7-18**]  04:02 AM
                             [**2184-7-19**]  03:24 AM
                             [**2184-7-20**]  05:12 AM
   WBC
   8.6
   14.3
   10.0
   9.1
   10.5
   8.4
   Hct
   23.7
   28.2
   25.9
   28.7
   25.9
   27.0
   Plt
   286
   346
   359
   346
   450
   438
   Cr
   0.5
   0.6
   0.4
   0.4
   0.6
   0.6
   0.7
   Glucose
   132
   159
   119
   122
   124
   121
   126
   101
   74
   Other labs: PT / PTT / INR:13.8/24.9/1.2, ALT / AST:24/26, Alk Phos / T
   Bili:64/0.3, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL, LDH:206 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Fluid analysis / Other labs: Hb electrophoresis pending,  dilantin
   corrected 16.7
   ECG: no QTc prolongation-->423 (is increasing slowly)
   Assessment and Plan
   24 yo F from [**Country 1773**], history of recent falciparum malaria presenting
   with altered mental status and sz from probable CNS malaria
   #  ALTERED MENTAL STATUS [**12-22**] presumed cerebral malaria w/ possible post
   ictal component from sz
   Much improved, though she remains apathetic-- likely is component of
   depression/possible delirium complicating
   assessment.  No further sz activity observed.
   Neuro and psych input appreciated.
   # MALARIA -- Falciparum.
   Parasite peripheral blood smears have turned positive.  We continue to
   follow daily.  We continue IV gtt quinidine and doxy chnaged to IV.
   With additional recs regarding management per ID. Follow daily ecg to
   monitor QTc.
   # SEIZURE
likely from CSF infection/malaria.
   Dilantin level therapeutic.
   #Social situration/ h/o Domestic violence/ depression
social work
   following, pysch evaluation given hx of depression and prior suicidal
   gestures as may benefit from inpt psych treatment
   # ANEMIA
has been attributed in part to malaria.  Hct remains stable.
   Anemia w/u unrevealing.  Hb electrophoresis is pending.
   # ICU
PT following, encourage OOB with assist
   Remainder as per resident note
   ICU Care
   Nutrition:  Encourage POs.  Ensure.  Input remains poor.  Consider
   initaing remeron to help with mood and appetite.
   Glycemic Control:  Blood sugar well controlled
   Lines:   Will consult for picc and plan to remove phoresis catheter
   Pheresis Catheter - [**2184-7-14**] 03:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2184-07-21 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2184-7-20**] 03:15 PM
 PHERESIS CATHETER - STOP [**2184-7-20**] 04:02 PM
   - ID recs: doxy and quinidine for 7 days, discontinue in the morning of
   [**7-21**]. would treat with 3 days of PO malarone (with food) after doxy and
   quinidine are d/c'd to clear gametocytes.
   - PICC placed
   - pt was seen by SW
   - pysch didn't come to see pt, will need to call early morning on [**7-21**]
   - still has the question of remeron for low PO intake
   - HIV and hemoglobin electrophoresis still pending
   - overnight, hypotensive while awake to 78/34, given 200cc NS bolus
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2184-7-19**] 06:35 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2184-7-20**] 12:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-21**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 70 (62 - 97) bpm
   BP: 90/51(60) {73/38(47) - 102/68(71)} mmHg
   RR: 15 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 53.4 kg
             Total In:
                                                                  1,104 mL
                                                                  1,357 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    599 mL
                                                                  1,357 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                    500 mL
   Urine:
                                                                  2,100 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -996 mL
                                                                    857 mL
   Respiratory support
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General: alert, oriented, follows commands
   Pulm: Lungs clear bilaterally, no rales or wheezing; upper airway
   sounds
   CV: Regular S1 S2 no m/r/g
   Abd: Soft nontender nondistended +bowel sounds, no organomegaly or mass
   Extrem: Warm, palpable pulses, no edema
   Psych: appropriate, pleasant
   Labs / Radiology
   456 K/uL
   9.2 g/dL
   80 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.5 mEq/L
   13 mg/dL
   106 mEq/L
   141 mEq/L
   27.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2184-7-16**]  05:43 PM
                             [**2184-7-16**]  06:26 PM
                             [**2184-7-16**]  11:39 PM
                             [**2184-7-17**]  05:24 AM
                             [**2184-7-17**]  12:00 PM
                             [**2184-7-17**]  06:00 PM
                             [**2184-7-18**]  04:02 AM
                             [**2184-7-19**]  03:24 AM
                             [**2184-7-20**]  05:12 AM
                             [**2184-7-21**]  04:34 AM
   WBC
   14.3
   10.0
   9.1
   10.5
   8.4
   8.9
   Hct
   28.2
   25.9
   28.7
   25.9
   27.0
   27.5
   Plt
   346
   359
   346
   [**Telephone/Fax (3) 8664**]
   Cr
   0.6
   0.4
   0.4
   0.6
   0.6
   0.7
   0.8
   Glucose
   159
   119
   122
   124
   121
   126
   101
   74
   80
   Other labs: Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Parasite smear negative (neg yesterday, pos on [**7-19**])
   Hb electropheresis pending
   Micro:
   HIV pending
   Cdiff neg
   Lyme blood serology negative
   CSF Lyme neg, Babesia neg
   CSF studies (EEE, West [**Doctor First Name 3223**], CMV, HSV) pending
   Anaplasma, LCMV serologies pending
   [**7-15**]: CSF cx neg (viral, acid fast, fungal pending)
   [**7-15**]: CSF crypto neg
   [**7-14**]: Blood RPR neg
   [**7-14**]: bloood malaria positive
   [**7-14**] blood cx pending
   [**7-14**] urine cx neg
   EEG [**7-19**]: pending read
   EKG [**7-20**]: no QT prolongation
   [**Hospital1 958**]: HSV PCR not detected (d/c'd acyclovir). BCx NGTD at 3d, CSF
   NGTD at 4d. Faxed results to us.
   Assessment and Plan
   This 24F with recent falciparum malaria, presenting with altered mental
   status.
   .
   * Altered mental status
 much imrpoved since admission. broad diff
   incl cerebral malaria, seizure, meningoencephalitis, toxic ingestion,
   but most likely cerebral malaria as pt has h/o P. falciparum malaria
   and MRI done demonstrates findings c/w infection/inflammation. LP did
   not suggest bacterial meningitis or TB meningitis. HIV status unknown
   although pt negative 2 y ago per friends. Toxic ingestion less likely
   as tox screens were negative.
   - F/U ID and Neuro recs
   - Continue IV quinidine until blood smears clear
   - switch doxy from PO to IV
   - F/u CSF studies (sent for cultures, HSV PCR, Lyme, EEE, West [**Doctor First Name 3223**] per
   ID recs)
   - EKG daily to evaluate for QT prolongation on quinidine
   - Follow fingerstick q4h as quinidine can cause hypoglycemia
   - Follow parasite smears daily for now
   - f/u HIV (pt has already consented, HIV ordered)
   - Seizure precautions
   - F/U  EEG results, may have to repeat as likely suboptimal study (pt
   removed leads during study)
   - continue Dilantin for seizures, check daily Dilantin levels, check
   albumin for correction
   .
   * Fever
 Resolved. Most likely due to malaria.
   - Continue IV quinidine and IV doxy for now
   - Follow up pending CSF Studies
   .
   * Anemia - Baseline Hct uncertain. Hemolysis labs unremarkable but
   parasites can cause hct drop. Coags nl so DIC less likely.
   - Follow CBC
   - Fe studies, TSH, Vit B12, folate are all wnl
   - f/u Hb electropheresis
   .
   * Depression
 pt with h/o depression and suicide attempts. Also victim
   of domestic abuse.
   - f/u psych recs
   - given pt
s low PO intake and poor appetite, ask psych if mirtazipine
   is a good choice for her
   - Social work following
   - Screen visitors
   .
   *Nutrition- Advanced to regular diet with nutrition consult for calorie
   count.
   - continue Ensure tid and MVI daily
   - monitor po intake and see if she needs more supplemental nutrition.
   - check with psych regarding possibility of mirtazipine
   .
   *Activity- Changed from bedrest to activity with assistance and seemed
   ataxic per NSG.
   - PT consulted and working with her
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2184-7-20**] 03:15 PM
   Prophylaxis:
   DVT: pneumoboots, heparin sq
   Stress ulcer: not indicated
   VAP:  n/a
   Comments:
   Communication:  Comments: [**Name (NI) 8501**] [**Name (NI) 8522**] (cousin/brother, [**Telephone/Fax (1) 8508**]
   (cell); [**Telephone/Fax (1) 8523**] (house)) [**First Name8 (NamePattern2) 77**] [**Doctor First Name 866**] safe to call him, [**Doctor First Name 866**]
   [**Telephone/Fax (1) 8507**] (friend); Do not let in [**Doctor Last Name **] Tah (ex-boyfriend)
   [**Name (NI) 156**] status: Full code
   Disposition: -call out once off quinidine drip

2184-07-21 13:11:00 Physician Attending Progress Note
Chief Complaint: altered MS, sz, cerebral malaria
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 yo F from [**Country 1773**], history of recent falciparum malaria presenting
   with altered mental status and sz from probable CNS malaria
   24 Hour Events:
 PICC LINE - START [**2184-7-20**] 03:15 PM
 PHERESIS CATHETER - STOP [**2184-7-20**] 04:02 PM
   asx hypotension overnight
 resolved with fluid blous
   PO intake slightly improved
   quinidine and doxy course completed to get 3 days malarone
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2184-7-19**] 06:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-7-21**] 11:43 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-7-21**] 01:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 80 (67 - 97) bpm
   BP: 107/60(70) {73/38(47) - 107/68(71)} mmHg
   RR: 11 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 53.4 kg
             Total In:
                                                                  1,104 mL
                                                                  1,648 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    599 mL
                                                                  1,408 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                    500 mL
   Urine:
                                                                  2,100 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -996 mL
                                                                  1,148 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   456 K/uL
   80 mg/dL
   0.8 mg/dL
   28 mEq/L
   4.5 mEq/L
   13 mg/dL
   106 mEq/L
   141 mEq/L
   27.5 %
   8.9 K/uL
        [image002.jpg]
                             [**2184-7-16**]  05:43 PM
                             [**2184-7-16**]  06:26 PM
                             [**2184-7-16**]  11:39 PM
                             [**2184-7-17**]  05:24 AM
                             [**2184-7-17**]  12:00 PM
                             [**2184-7-17**]  06:00 PM
                             [**2184-7-18**]  04:02 AM
                             [**2184-7-19**]  03:24 AM
                             [**2184-7-20**]  05:12 AM
                             [**2184-7-21**]  04:34 AM
   WBC
   14.3
   10.0
   9.1
   10.5
   8.4
   8.9
   Hct
   28.2
   25.9
   28.7
   25.9
   27.0
   27.5
   Plt
   346
   359
   346
   [**Telephone/Fax (3) 8664**]
   Cr
   0.6
   0.4
   0.4
   0.6
   0.6
   0.7
   0.8
   Glucose
   159
   119
   122
   124
   121
   126
   101
   74
   80
   Other labs: PT / PTT / INR:13.8/24.9/1.2, ALT / AST:24/26, Alk Phos / T
   Bili:64/0.3, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL, LDH:206 IU/L,
   Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Fluid analysis / Other labs: hb electrophoresis pending
   Imaging: eeg pending
   Microbiology: parasite smear neg yesterday and today, last pos [**7-19**]
   Assessment and Plan
   24 yo F from [**Country 1773**], history of recent falciparum malaria presenting
   with altered mental status and sz from probable CNS malaria
   # Hypotension
transient with sleep, asx at time, runs low at baseline,
   remains af without signs of infection
   # ALTERED MENTAL STATUS [**12-22**] cerebral malaria w/ possible post ictal
   component from sz, [**Month (only) 8**] be component of depression. No further sz
   activity observed. Neuro and psych input appreciated.
   Continues to  improve
   # MALARIA -- Falciparum.
   Parasite peripheral blood smears neg X past 2 days.
   ID input appreciated.  Has completed IV quinidine and doxy course, now
   to receive 3 days malarone.
   # SEIZURE
likely from CSF infection/malaria.
   Dilantin level therapeutic.  F/u pending eeg result
   #Social situation/ h/o Domestic violence/ depression
social work
   following, pysch following
   # ANEMIA
has been attributed in part to malaria.  Hct remains stable.
   Anemia w/u unrevealing to date.  Hb electrophoresis remains pending.
   # ICU
t OOB, walking
   Remainder as per resident note
   ICU Care
   Nutrition: improved PO with food from home, continue to encourage
   intake
    D/w psych team starting remeron to help with appetite
   Glycemic Control:  Regular insulin sliding scale, Comments: can d/c
   Lines:
   PICC Line - [**2184-7-20**] 03:15 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes